US07271406B2
Into a 1 L round-bottomed flask fitted with a mechanical stirrer, reflux condenser and nitrogen inlet were introduced 2,5-dichloro-N′-[4-(octyloxy)benzoyl]benzohydrazide (40 g, 0.09146 mole, 1 equivalent), p-anisidine (67.60 g, 0.5487 mole, 6 equivalents) and 300 mL 1,2-dichlorobenzene. Mechanical stirring resulted in partial solvation of the solids. Phosphorus trichloride (12.56 g, 0.0146 mole, 1 equivalent) was added and the contents of the flask heated at 180° C. for 12 hrs. The solvent was distilled off under a light vacuum and the residue transferred to a 2 L flask with 1 L of a 1:1 acetone/heptane mixture. The solid material was filtered off and dissolved in acetone. Enough heptane was added to precipitate a purple-colored oily sludge. Heptane dilution of a test sample of the acetone/heptane layer ensured that the oily sludge had been completely precipitated. The acetone/heptane layer was decanted off and diluted further with a large excess of heptane to precipitate a white solid. This was filtered off, dissolved in acetone and re-precipitated with heptane. Filtration and drying gave 3-(2,5-dichlorophenyl)-4-(4-methoxyphenyl)-5-[4-(octyloxy)phenyl]-4H-1,2,4-triazole (16.25 g, 34% yield).

reactant | 2,5-dichloro-N′-[4-(octyloxy)benzoyl]benzohydrazide | 0.09146 mole, 40 g, 1 equivalent | ClC1=C(C(=O)NNC(C2=CC=C(C=C2)OCCCCCCCC)=O)C=C(C=C1)Cl | C22H26Cl2N2O3
reactant | p-anisidine | 0.5487 mole, 67.60 g, 6 equivalents | COC1=CC=C(C=C1)N | C7H9NO
reactant | Phosphorus trichloride | 0.0146 mole, 12.56 g, 1 equivalent | P(Cl)(Cl)Cl | Cl3P
solvent | 1,2-dichlorobenzene | 300 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 3-(2,5-dichlorophenyl)-4-(4-methoxyphenyl)-5-[4-(octyloxy)phenyl]-4H-1,2,4-triazole | 16.25 g, 34% yield | ClC1=C(C=C(C=C1)Cl)C1=NN=C(N1C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OCCCCCCCC | C29H31Cl2N3O2
